* source PROJET_AMPLI_MICROPHONE
C_C7         N07364 VS4  1u  TC=0,0 
R_RE         0 N07364  1k TC=0,0 
C_C6         VS3 N07266  1u  TC=0,0 
Q_Q6         VCC N07266 N07364 BC238BP/ZTX 
R_RB7         0 N07266  180k TC=0,0 
R_RB6         N07266 VCC  100k TC=0,0 
R_RB1         N02964 VCC  150k TC=0,0 
R_RE1         0 N03128  1.2k TC=0,0 
V_V6         VCC 0 5Vdc
R_RC         N02968 VCC  2.2k TC=0,0 
R_RE2         0 N03230  220 TC=0,0 
C_C2         N02968 VS1  1u  TC=0,0 
V_V3         N03092 0  AC 5m
+SIN 0 5m 5k 0 0 0
R_R6         N03092 VE  50 TC=0,0 
C_C3         N03230 N03128  10u  TC=0,0 
R_RB2         0 N02964  100k TC=0,0 
C_C1         VE N02964  1u  TC=0,0 
Q_Q1         N02968 N02964 N03128 BC238BP/ZTX 
Q_Q5         N06585 N06661 N06753 BC238BP/ZTX 
R_RE3         N06585 N06415  100 TC=0,0 
Q_Q3         N06265 N06397 N06421 BC238BP/ZTX 
R_RE5         N06747 0  2.2k TC=0,0 
R_RC1         VS2 VCC  1k TC=0,0 
R_RE4         N06585 N06421  100 TC=0,0 
R_RE6         0 N06753  220 TC=0,0 
Q_Q4         N06661 N06661 N06747 BC238BP/ZTX 
R_RC2         N06265 VCC  1k TC=0,0 
R_RB5         N06661 VREF  2.2k TC=0,0 
R_RB3         VREF N06397  10k TC=0,0 
R_RB4         VREF VS1  10k TC=0,0 
C_C5         VREF N06397  1u  TC=0,0 
Q_Q2         VS2 VS1 N06415 BC238BP/ZTX 
V_V7         VREF 0 2.5V
R_RE7         N18787 N18647  100 TC=0,0 
R_RB10         N18839 VREF  2.2k TC=0,0 
R_RE8         N18787 N18653  100 TC=0,0 
R_RC3         VS3 VCC  1k TC=0,0 
Q_Q7         VS3 N18617 N18647 BC238BP/ZTX 
R_RE10         0 N18923  220 TC=0,0 
R_RB9         VREF N18617  10k TC=0,0 
Q_Q10         N18787 N18839 N18923 BC238BP/ZTX 
C_C8         VREF N18629  1u  TC=0,0 
R_RC4         N18551 VCC  1k TC=0,0 
Q_Q9         N18839 N18839 N18917 BC238BP/ZTX 
R_RE9         N18917 0  2.2k TC=0,0 
Q_Q8         N18551 N18629 N18653 BC238BP/ZTX 
R_RB8         VREF N18629  10k TC=0,0 
R_ZCH         0 VS4  1k TC=0,0 
C_C9         VS2 N18617  1u  TC=0,0 
